Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
shortness of breath 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ PMH asthma, obesity, OSA on CPAP, ADD, who presents with DOE 
and chest pain.
Patient reports he was in his USOH until about ___ weeks ago, 
when he noticed increasing DOE when exercising (usually biking). 
He also noted some pain in his L leg starting slightly after he 
noticed the increased DOE, starting in the L popliteal fossa and 
over the course of days to weeks spreading into the calf and up 
into the posterior thigh, also worse with exertion. DOE got 
gradually worse, and over the past few days he had it at rest as 
well. He had some associated chest pain with exertion generally 
described as band-like and burning across the chest. Had some 
discomfort to deep inspiration. Had some nausea/vomiting from 
pain today prior to admission. He has had a slight 
non-productive cough which tends to be seasonal, and denies 
fevers/chills.
He denies any recent travel or immobilization; any change in 
medications; any known peripheral vascular disease or 
claudication symptoms. He has had some weight loss over the past 
month or two, but this has been concurrent with exercising more 
after the winter. He denies diarrhea, constipation, black/bloody 
stools or any abnormalities in his stools, abdominal pain, 
dysuria/hematuria, and has otherwise been in his USOH.

In the ED, initial vitals were: 97.0 153/87 103 19 100/RA
- Exam notable for: rrr, s1/s2, no mgr. ctabl no wheezes, trace 
non pitting edema bilaterally
- Labs notable for:
Trp <0.01
D - dimer ___
Chem 7 WNL
BNP 163

CBC WNL
- Imaging was notable for:
- CTA chest:
1. Bilateral pulmonary emboli involving right main, right 
segmental, and left segmental pulmonary arteries.
2. Mild enlargement of the main pulmonary artery and equivocal 
flattening of the interventricular septum could suggest right 
heart strain. Echocardiogram could be obtained for further 
evaluation.
3. Peripheral wedge-shaped opacity in the right lower lobe could 
represent atelectasis or infarct.

- EKG: NSR, no ischemic changes, no RV strain
- PE/MASCOT was consulted: EKG reviewed, no signs of RV strain 
or ischemia. Troponin negative. Evidence of RV strain on CT, 
however remains hemodynamically stable. Given stability with 
minimal oxygen requirement and lack of symptoms at rest, no 
indication for higher level of care or advanced therapy such as 
catheter directed TPA.
-OK for floor, either medicine or ___
-no indication for EKOS or TPA
- Patient was given: ASA 325 (risk of ACS), started on heparin 
GTT

Vitals prior to transfer:
Upon arrival to the floor, patient reports generally feeling 
well, with improved dyspnea with oxygen and no pain.
REVIEW OF SYSTEMS:
(+) Per HPI
(-) 10 point ROS reviewed and negative unless stated above in 
HPI

 
Past Medical History:
Sleep apnea
ADD
obesity
Mild Persistent Asthma - has mildly obstructed PFTs, seen in 
past by pulm but not on medications
vasovagal syncope

SURGICAL:
rotator cuff surgery

 
Social History:
___
Family History:
Uncle with PE in his ___
father age ___ hypoglycemia
mother age ___ h/o uterine cancer
No other significant family history of cancer, hematologic 
disorders

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vital Signs: 98.3 144/81 86 18 92/3L
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.
Neck: Supple. JVP not elevated. no LAD
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, adipose but non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding
GU: No foley
Ext: LLE tender to palpation, calf slightly larger than R, 
positive ___ sign; otherwise warm, well perfused, 2+ pulses, 
no clubbing, cyanosis
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation.

DISCHARGE PHYSICAL EXAM: 
========================
Vitals: 98.0 PO 126 / 85 L Sitting 92 18 95 Ra
Gen: Well appearing obese man, able to finish sentences without 
pausing for breath
Neck: No LAD, JVP not elevated, supple
Card: RRR, No MRG
Pulm: Clear to auscultation, no w/r/r
Ab: Non-tender, non-distended, liver edge 1 cm beneath costal 
margin, normoactive bowel sounds
Extr: Tightened left calf, trace non-pitting edema, LLE slightly 
larger than RLE, bilateral DP pulses appreciated
Neuro: AOx3, Grossly normal motor
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 08:54PM   cTropnT-<0.01
___ 02:40PM   GLUCOSE-116* UREA N-15 CREAT-0.9 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-21* ANION GAP-18
___ 02:40PM   estGFR-Using this
___ 02:40PM   cTropnT-<0.01
___ 02:40PM   proBNP-163*
___ 02:40PM   ___
___ 02:40PM   WBC-9.0# RBC-4.44* HGB-14.0 HCT-41.6 MCV-94 
MCH-31.5 MCHC-33.7 RDW-12.2 RDWSD-41.7
___ 02:40PM   NEUTS-59.8 ___ MONOS-11.2 EOS-3.5 
BASOS-0.4 IM ___ AbsNeut-5.35# AbsLymp-2.23 AbsMono-1.00* 
AbsEos-0.31 AbsBaso-0.04
___ 02:40PM   PLT COUNT-191

DISCHARGE LABS: 
===============
___ 06:35AM BLOOD WBC-8.1 RBC-4.56* Hgb-14.5 Hct-43.1 
MCV-95 MCH-31.8 MCHC-33.6 RDW-12.0 RDWSD-41.9 Plt ___
___ 06:35AM BLOOD Glucose-95 UreaN-11 Creat-1.0 Na-142 
K-4.8 Cl-106 HCO3-21* AnGap-20

IMAGING: 
========
+ CTA chest:
1. Bilateral pulmonary emboli involving right main, right 
segmental, and left segmental pulmonary arteries.
2. Mild enlargement of the main pulmonary artery and equivocal 
flattening of the interventricular septum could suggest right 
heart strain. Echocardiogram could be obtained for further 
evaluation.
3. Peripheral wedge-shaped opacity in the right lower lobe could 
represent atelectasis or infarct.

+ EKG: NSR, normal axis and intervals, no ischemic changes, no 
RV strain

+ TTE ___: The left atrium is mildly dilated. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF = 70%). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic root is mildly dilated at the 
sinus level. The ascending aorta is mildly dilated. The aortic 
arch is mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

 
Brief Hospital Course:
___ year old man w/ PMH obesity, mild asthma, OSA on CPAP who 
presented with dyspnea on exertion and found to have 
hemodynamically stable unprovoked PE.

#Unprovoked PE: He presented with dyspnea on exertion, chest 
tightness and left leg pain and found to have bilateral 
pulmonary emboli involving right main, right segmental, and left 
segmental pulmonary arteries. He was hemodynamically stable, but 
did have an O2 requirement of ___ on hospital day 1. No clear 
inciting factor (no known malignancy, hypercoag, immobilization, 
travel), no evidence of right heart strain (trp wnl, BNP normal, 
EKG w/ no right heart strain, and TTE w/o right heart strain). 
No signs/ symptoms of malignancy (no weight loss, night sweats, 
LAD, cough, change in bowel patterns, hematuria). Given uncle 
(although in his ___ w/ prior PE and patient's age ___ yo), 
hereditary coagulopathy could be possible (although, typically 
use guideline of patient ___ yo OR first degree relative ___ yo 
w/ PE/DVT). Patient initially managed on heparin but then was 
transitioned to apixiban 15 mg BID for 21 days with plan to 
switch to 20 mg daily at day 22. Length of need for first 
unprovoked PE will be determined by PCP.  

#OSA: History of OSA, CPAP at home. CPAP used inpatient.

#ADD: Continue home regimen, Adderall 40 mg PO daily.

TRANSITIONAL ISSUES: 
====================
#NEW MEDICATIONS: Xarelto (15 mg BID for 21 days and then 20 mg 
daily- length to be determined)
[] xarelto due to start 20 mg daily on ___
[] Please pursue malignancy work-up as outpatient (however, no 
signs/sx of malignancy at this time) - would consider 
colonoscopy
[] Please consider hypercoag w/u as outpatient (although pt not 
___ year old and relative with DVT was an uncle in his ___
[] Please discuss length of need for xarelto in the setting of 
first unprovoked PE - recommend minimum of 9 months
[] FYI- seen on CTA was peripheral wedge-shaped opacity in the 
right lower lobe could  represent atelectasis or infarct. 
 # CODE:  full
 # CONTACT: Proxy name: ___, Relationship: wife   
Phone: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 40 mg PO DAILY 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [Xarelto] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth twice a day Disp #*1 Dose Pack Refills:*0 
2.  Amphetamine-Dextroamphetamine XR 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Pulmonary Embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

It was a pleasure caring for you at ___!

You were in the hospital because you had shortness of breath and 
were found to have a blood clot in your lungs. This is also 
known as a "pulmonary embolism".

You were started on a blood thinner, called "rivaroxaban" also 
known as "Xarelto", to prevent future blood clots. You should 
take this medication with food. A side effect of this medicine 
is bleeding. Please do not taking any "NSAIDS" such as 
ibuprofen, naproxen or aspirin while on this medicine, as the 
combination can lead to serious bleeding. 

Please follow up with your doctor to determine how long you have 
to take "Xarelto" and to try to determine why you had a blood 
clot. Your appointment is listed in this paperwork.

We wish you the best!
- Your ___ Team
 
Followup Instructions:
___